US08106064B2
To a 1 L 3-neck flask equipped with addition funnel, was placed chlorobenzene (150 ml). 2-(3,5-dichloro-2,6-difluoropyridin-4-yl)acetic acid (21 g, 86.77 mmol) and mercury oxide (20 g, 92.34 mmol) were added in this order. The mixture was heated up to 140-150° C. in an oil bath. Bromine (5.4 mL, 105 mmol) in chlorobenzene (90 ml) was then added dropwise through the addition funnel for 2˜2.5 hr. After the addition of bromine solution, the reaction mixture was refluxed for further 1 hr. and cooled to room temperature. The mixture was filtered through celite pad and the pad was washed with chlorobenzene. The combined filterate was evaporated in vacuo and the residue was purified by silica gel column chromatography (eluent, ether:hexane (1:10)) to give 20 g (80%) of 4-(bromomethyl)-3,5-dichloro-2,6-difluoropyridine as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 4.66 (2H, s). m/z (EI) 277 (M+).

reactant | 2-(3,5-dichloro-2,6-difluoropyridin-4-yl)acetic acid | 86.77 mmol, 21 g | ClC=1C(=NC(=C(C1CC(=O)O)Cl)F)F | C7H3Cl2F2NO2
reactant | Bromine | 105 mmol, 5.4 mL | BrBr | Br2
solvent | chlorobenzene | 90 ml | ClC1=CC=CC=C1 | C6H5Cl
catalyst | mercury oxide | 92.34 mmol, 20 g | [Hg]=O
solvent | chlorobenzene | 150 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 4-(bromomethyl)-3,5-dichloro-2,6-difluoropyridine | 20 g, 80% | BrCC1=C(C(=NC(=C1Cl)F)F)Cl | C6H2BrCl2F2N
